US06528510B1
4-Hydroxy-3-(5-hydroxymethyl-2-isopropyl-thiophen-3-ylsulfanyl)-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared according to General Method 16b using 4-hydroxy-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one (Example E-20; 0.200 g, 0.75 mmol), toluene-4-thiosulfonic acid S-[5-(tert-butyl-dimethyl-silanyloxymethyl)-2-isopropyl-thiophen-3-yl]ester (Example BB-9; 0.377 g, 0.83 mmol), NEt3 (0.209 mL, 1.50 mmol), and acetonitrile (1.5 mL). As part of the purification, the silylether was cleaved by dissolving the crude coupled product in THF (50 mL) and then treated with a 1.0 M THF solution of tetrabutylammoniumflouride (1.5 mL, 1.5 mmol). After 30 minutes, the mixture was diluted with H2O and extracted with EtOAc. The organic layers were then combined, dried (MgSO4), and concentrated. The resulting residue was then submitted to column chromatography (eluting with 3% MeOH in CH2Cl2) to provide the title compound, mp 52-54° C.

reactant | 4-hydroxy-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one | 0.75 mmol, 0.200 g | OC1=CC(OC(C1)(CCC1=CSC=C1)C(C)C)=O | C14H18O3S
reactant | toluene-4-thiosulfonic acid S-[5-(tert-butyl-dimethyl-silanyloxymethyl)-2-isopropyl-thiophen-3-yl]ester | 0.83 mmol, 0.377 g | C(C)(C)(C)[SiH2]OC(C1=CC(=C(S1)C(C)C)SS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C21H32O3S3Si
reactant | NEt3 | 1.50 mmol, 0.209 mL | CCN(CC)CC | C6H15N
reactant | tetrabutylammoniumflouride | 1.5 mmol, 1.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | O | H2O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 4-Hydroxy-3-(5-hydroxymethyl-2-isopropyl-thiophen-3-ylsulfanyl)-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one | OC1=C(C(OC(C1)(CCC1=CSC=C1)C(C)C)=O)SC1=C(SC(=C1)CO)C(C)C | C22H28O4S3
